US05117057
Preparation of N'-t-butyl-N-benzoyl-N'-benzylhydrazine
Benzyl bromide (0.9 g), 1-benzoyl-2-t-butyl hydrazine (1 g) and triethylamine (0.52 g) were warmed in dimethylformamide (50 ml) at 50° C. for 2 hours. The reaction mixture was cooled to room temperature, diluted with diethylether (100 ml) and washed three times with 25 ml of water. The organic layer was dried over magnesium sulfate, filtered, and the solvent removed in vacuo to afford the product as a white solid. The product was chromatographed on silica gel (G:70 to 230 mesh) using methylene chloride as eluent to afford a 75% yield of a white solid: m.p. 147°-149.

reactant | Benzyl bromide | 0.9 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 1-benzoyl-2-t-butyl hydrazine | 1 g | C(C1=CC=CC=C1)(=O)NNC(C)(C)C | C11H16N2O
reactant | triethylamine | 0.52 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
product | N'-t-butyl-N-benzoyl-N'-benzylhydrazine | C(C)(C)(C)N(NC(C1=CC=CC=C1)=O)CC1=CC=CC=C1 | C18H22N2O
